US07144899B2
Step C: 1-(tert-Butoxycarbonyl)-N-[2-(1H-tetraazol-1-yl)-5(trifluoromethyl)benzyl]-L-prolinamide
A mixture of 1-(tert-butoxycarbonyl)-L-proline (39 mg, 0.18 mmol), 1-[2-(1H-tetraazol-1-yl)-5-(trifluoromethyl)phenyl]methanamine (42 mg, 0.17 mmol), EDC (49 mg, 0.26 mmol) and HOAt (12 mg, 0.09 mmol) in DMF (1 mL) was stirred at room temperature for 2 h. The crude product was purified by reverse phase HPLC followed by neutralization of an aqueous slurry of the compound with saturated aqueous K2CO3 and repeated extraction of the resulting aqueous mixture with EtOAc (the aqueous layer was saturated with NaCl before each extraction). The combined organic extracts were dried (anhydrous Na2SO4) and concentrated to afford the title compound as an oil which was carried on directly to the deprotection step (Step D below). LCMS (M+H): 441.2.

reactant | 1-(tert-butoxycarbonyl)-L-proline | 0.18 mmol, 39 mg | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | 1-[2-(1H-tetraazol-1-yl)-5-(trifluoromethyl)phenyl]methanamine | 0.17 mmol, 42 mg | N1(N=NN=C1)C1=C(C=C(C=C1)C(F)(F)F)CN | C9H8F3N5
reactant | EDC | 0.26 mmol, 49 mg
reactant | HOAt | 0.09 mmol, 12 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(tert-Butoxycarbonyl)-N-[2-(1H-tetraazol-1-yl)-5(trifluoromethyl)benzyl]-L-prolinamide | C(C)(C)(C)OC(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)C(F)(F)F)N2N=NN=C2)CCC1 | C19H23F3N6O3
